US08076517B2
To a solution of (R)-3-methoxy-2-methyl-benzoic acid N′-(1-cyclohexyl-but-3-enyl)-hydrazide (1.3 g, 4.11 mmol) in CH2Cl2 (5 mL), was added K2CO3 (2.27 g, 16.44 mmol), H2O (5 mL), and finally 3,5-dimethylbenzoyl chloride (727 mg, 4.31 mmol). The reaction was stirred at room temperature for 24 h. Additional CH2Cl2 and H2O were added to aid manipulation, the CH2Cl2 layer was separated, and the aqueous layer was extracted with CH2Cl2. The CH2Cl2 solutions were combined and dried over anhydrous Na2SO4. The solvent was evaporated in vacuo and the residue was purified by flash chromatography to provide (R)-3,5-dimethyl-benzoic acid N-(1-cyclohexyl-but-3-enyl)-N′-(3-methoxy-2-methyl-benzoyl)-hydrazide as a white solid (1.45 g, 78% yield). Rf=0.21 (3:1 EtOAc:n-Hexane); 1H NMR (400 MHz, DMSO-d6) δ 10.47+10.39 (2 s, 1H), 7.20-7.01 (m, 5H), 6.37 (d, J=7.2 Hz, 1H), 6.22-5.89 (m, 1H), 5.18 (dd, 1H), 5.02 (dd, 1H), 4.46 (m, 1H), 3.79 (s, 3H), 2.44-2.34 (m, 2H), 2.29 (s, 3H), 2.02-1.53 (m, 8H), 1.26-1.02 (m, 3H); HRMS (ESI) m/z calcd for C28H37N2O3 [M+H]+ 449.2804, found 449.2793, calcd for C28H36N2NaO3 [M+Na]+ 471.2624, found 471.2615.

reactant | (R)-3-methoxy-2-methyl-benzoic acid N′-(1-cyclohexyl-but-3-enyl)-hydrazide | 4.11 mmol, 1.3 g | C1(CCCCC1)[C@@H](CC=C)NNC(C1=C(C(=CC=C1)OC)C)=O | C19H28N2O2
reactant | K2CO3 | 16.44 mmol, 2.27 g | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 5 mL | O | H2O
reactant | 3,5-dimethylbenzoyl chloride | 4.31 mmol, 727 mg | CC=1C=C(C(=O)Cl)C=C(C1)C | C9H9ClO
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | (R)-3,5-dimethyl-benzoic acid N-(1-cyclohexyl-but-3-enyl)-N′-(3-methoxy-2-methyl-benzoyl)-hydrazide | 1.45 g, 78% yield | C1(CCCCC1)[C@@H](CC=C)N(NC(C1=C(C(=CC=C1)OC)C)=O)C(C1=CC(=CC(=C1)C)C)=O | C28H36N2O3
